US07053107B2
N-(1-Methyl-1H-imidazol-2-ylmethyl)-2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 6 above except using C-(1-Methyl-1H-imidazol-2-yl)-methylamine hydrochloride and 2-[3-[2-(4-Methyl-pyridin-2-yl) -vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid. 1H NMR (DMSO-d6) δ 9.83 (1H, s 9.03 (1H, t, J=5.5 Hz), 8.45 (1H, d, J=4.7 Hz), 8.09 (1H, d, J=8.5 Hz), 7.85 (1H, d , J=16.5 Hz), 8.67 (1H, d , J=7.3 Hz), 7.53–7.39 (4H, m), 7.11 (3H, m), 6.90 (1H, d, J=6.9 Hz), 6.86 (1H, s), 5.79 (1H, d , J=8.9 Hz), 5.75 (1H, s), 4.54 (1H, d , J=5.5 Hz), 3.85–3.70 (2H, m), 3.66 (3H, s), 2.35 (3H, s), 2.10 (2H, m), 1.70 (2H, m), 1.60 (3H, m). Anal. Calcd for C32H33N7O2.0.8 CH2Cl2: C, 63.99; H, 5.672; N, 15.93. Found: C, 63.95; H, 5.72; N, 16.01.

reactant | C-(1-Methyl-1H-imidazol-2-yl)-methylamine hydrochloride | Cl.CN1C(=NC=C1)CN
reactant | 2-[3-[2-(4-Methyl-pyridin-2-yl) -vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid | CC1=CC(=NC=C1)C=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)C1OCCCC1 | C27H26N4O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(1-Methyl-1H-imidazol-2-ylmethyl)-2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide | CN1C(=NC=C1)CNC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C=CC1=NC=CC(=C1)C)=O | C32H33N7O2
